US08304557B2
ethyl ({[5-(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenoxy)pyridin-2-yl]amino}carbonothioyl)carbamate
To a solution of N-{3-[(6-aminopyridin-3-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (184 mg, 0.569 mmol) in DMSO (4 mL) was added ethyl isothiocyanatoformate (89.6 mg, 0.682 mmol), and the mixture was stirred for 15 hr. The reaction mixture was diluted with water and extracted with ethyl acetate (×3). The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was dried to give the title compound (268 mg, 99%) as a colorless oil.

reactant | N-{3-[(6-aminopyridin-3-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 0.569 mmol, 184 mg | NC1=CC=C(C=N1)OC=1C=C(C=CC1)NC(=O)C1=CC(=NN1C)C | C17H17N5O2
reactant | ethyl isothiocyanatoformate | 0.682 mmol, 89.6 mg | N(=C=S)C(=O)OCC | C4H5NO2S
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | ethyl ({[5-(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenoxy)pyridin-2-yl]amino}carbonothioyl)carbamate | 268 mg, 99% | CN1N=C(C=C1C(=O)NC=1C=C(OC=2C=CC(=NC2)NC(=S)NC(OCC)=O)C=CC1)C | C21H22N6O4S
